US06982348B2
4) ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoate
To a suspension of anhydrous zinc chloride (9.12 g, 67.0 mmol) in diethyl ether (100 ml) was added sodium borohydride (5.07 g, 134 mmol) by small portions, and the mixture was stirred for 2 hrs. Insoluble material was filtered off, and washed with diethyl ether. The filtrate was ice-cooled, and to the filtrate was added a solution of ethyl 3-(4-fluorophenyl)-3-oxo-2-[3-(isopropyloxy)benzyl]propanoate (12.0 g, 33.5 mmol) in diethyl ether (20 ml). The mixture was stirred at room temperature for 2 hrs. and ice-cooled again. 1N Hydrochloric acid was added to stop the reaction. The mixture was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography(hexane:ethyl acetate=10:1) to give the objective substance (10 g, 83%) as a colorless oil

reactant | sodium borohydride | 134 mmol, 5.07 g | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-3-oxo-2-[3-(isopropyloxy)benzyl]propanoate | 33.5 mmol, 12.0 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C)C)=O | C21H23FO4
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 67.0 mmol, 9.12 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoate | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C)C)O | C21H25FO4
